US03993630
A. Preparation of 4,4'-methylenebis{N-(α-methylbenzylidene)aniline}
A mixture of 4,4'-methylenedianiline (198 g; 1 mole), acetophenone (240 g; 2 moles) and a catalytic amount of stannous chloride was refluxed in toluene (3L) for 30 hours using a Dean-Stark trap. The theoretical amount of water was removed from the system. The toluene was then removed under vacuum.

reactant | 4,4'-methylenedianiline | 1 mole, 198 g | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | acetophenone | 2 moles, 240 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,4'-methylenebis{N-(α-methylbenzylidene)aniline} | C(C1=CC=C(N=C(C2=CC=CC=C2)C)C=C1)C1=CC=C(N=C(C2=CC=CC=C2)C)C=C1 | C29H26N2
